US09340547B2
a) (S)-tert-Butyl 2-(2-(phenylcarbamoyl)-1H-pyrrol-1-ylcarbamoyl)pyrrolidine-1-carboxylate
(S)-1-(tert-Butoxycarbonyl)pyrrolidine-2-carboxylic acid (1.80 g, 8.36 mmol) were dissolved in 20 ml of N,N-dimethylformamide and HATU (3.40 g, 8.95 mmol), DIEA (2.60 ml, 14.89 mmol) and 1-amino-N-phenyl-1H-pyrrole-2-carboxamide were added. The resulting solution was stirred at room temperature overnight and the solvent was removed in vacuum. The residue was taken up in ethyl acetate and the organic solution was washed with water and brine, dried over magnesium sulphate, filtered and evaporated to dryness. The crude product was purified by flash chromatography (0% to 30% hexane/AcOEt) to yield 1.90 g (62%) of the title compound as a white solid.

reactant | (S)-1-(tert-Butoxycarbonyl)pyrrolidine-2-carboxylic acid | 8.36 mmol, 1.80 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(=O)O | C10H17NO4
reactant | HATU | 8.95 mmol, 3.40 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 14.89 mmol, 2.60 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-amino-N-phenyl-1H-pyrrole-2-carboxamide | NN1C(=CC=C1)C(=O)NC1=CC=CC=C1 | C11H11N3O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | (S)-tert-Butyl 2-(2-(phenylcarbamoyl)-1H-pyrrol-1-ylcarbamoyl)pyrrolidine-1-carboxylate | 1.90 g, 62% | C1(=CC=CC=C1)NC(=O)C=1N(C=CC1)NC(=O)[C@H]1N(CCC1)C(=O)OC(C)(C)C | C21H26N4O4
